US06153322
A solution of 0.064 mole of 8-nonen-1-ol and 0.19 mole of triethylamine (3 molar excess) in 100 mL of hexane was prepared. To the stirred solution, 0.13 mole of methanesulfonyl chloride (2 molar excess) was added dropwise over 5 min. After the addition was complete, stirring was continued for 2 h. Cold water was poured into the reaction mixture to destroy any excess methanesulfonyl chloride. The aqueous layer was separated from the organic layer, and was extracted with diethyl ether. The organic phases were combined and washed with dilute HC, H2O, 5% NaHCO3 and H2O. The organic layer was dried over MgSO4 and the solvent was removed by rotary evaporation. The respective reactions afforded 8-nonen-1-mesylate in 95% yield. The final product had the following properties: 1H NMR (300 MHZ, CDCl3): δ 5.86-5.72 (m, 1H), 5.02-4.91 (m, 2H), 4.23 (t, J=7.4 Hz, 2H), 2.97 (s, 2H), 2.05 (m, 2H), 1.80 (m, 2H), 1.39-1.27 (m, 8H). 13C NMR (75.5 MHZ, CDCl3): δ 138.33, 113.78, 69.85, 36.52, 33.19, 28.59, 28.35 (2 peaks), 28.23, 24.86.

reactant | triethylamine | 0.19 mole, 3 molar | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.13 mole, 2 molar | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | O | H2O
reactant | hexane | 100 mL | CCCCCC | C6H14
product | 8-nonen-1-ol | 0.064 mole, 95% yield | C(CCCCCCC=C)O | C9H18O
